US06326516B1
To tert-butyl-2-aminopropanoate (2.0 g, 11.0 mmol) in 20 mL of dichloromethane at 0° C. was added triethylamine (6.75 mL, 48.4 mmol) followed by 4-(2-butynyloxy)phenylsulfonyl chloride (2.94 g, 12.1 mmol). An additional 10 mL of dichloromethane was added to the thick slurry. The mixture was stirred overnight then diluted with dichloromethane and washed sequentially with water, 2N aqueous citric acid and brine, then dried over anhydrous sodium sulfate. Filtration and concentration in vacuo gave a solid that was triturated with hexanelethyl acetate to give tert-butyl 3-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)propanoate (3.88 g) as an off-white solid, mp 63-65° C. Analysis for C17H23NO5S: Calc'd: C, 57.77; H, 6.56; N, 3.96. Found: C, 57.68; H, 6.42; N, 3.90. Electrospray Mass Spec 354.2 (M+H)+.

reactant | tert-butyl-2-aminopropanoate | 11.0 mmol, 2.0 g | C(C)(C)(C)OC(C(C)N)=O | C7H15NO2
reactant | triethylamine | 48.4 mmol, 6.75 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(2-butynyloxy)phenylsulfonyl chloride | 12.1 mmol, 2.94 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl 3-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)propanoate | 3.88 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NCCC(=O)OC(C)(C)C | C17H23NO5S
